US07842696B2
LiOH (1.111 g, 26.47 mmol) was added to a stirred solution of [(biphenyl-4-carbonyl)-amino]-acetic acid ethyl ester (5 g, 17.65 mmol) in THF:MeOH:H2O (3:1:1, 95 mL), and the resulting mixture was stirred at room temperature overnight. The MeOH and THF were evaporated, and the residue was diluted with water (2 mL), acidified with citric acid solution and extracted with EtOAc. The organic layer was washed with saturated brine solution, dried over Na2SO4 and concentrated in vacuo to obtain afford 3.892 g (86.3% yield) of [(biphenyl-4-carbonyl)-amino]-acetic acid. LCMS purity: 96.4%.

reactant | LiOH | 26.47 mmol, 1.111 g | [Li+].[OH-]
reactant | [(biphenyl-4-carbonyl)-amino]-acetic acid ethyl ester | 17.65 mmol, 5 g | C(C)OC(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C17H17NO3
solvent | THF MeOH H2O | 95 mL | C1CCOC1.CO.O
product | [(biphenyl-4-carbonyl)-amino]-acetic acid | 3.892 g, 86.3% yield | C1(=CC=C(C=C1)C(=O)NCC(=O)O)C1=CC=CC=C1 | C15H13NO3
